US04567197
A solution of 2-allyl-3-(2-ethylphenyl)-3-oxopropionate (7.3 g.) in dry tetrahydrofuran (THF) (40 ml.) was added during 10 minutes to a stirred suspension of lithium borohydride (1.32 g.) in dry THF (40 ml.) at 0° C. under a nitrogen atmosphere. The mixture was then stirred at room temperature for 18 hours, cooled to 0°-5° C. and water (40 ml.) added. The aqueous mixture was acidified to pH 2 (concentrated hydrochloric acid) and extracted with ethyl acetate (3×120 ml.). The combined extracts were washed with saturated brine, dried (MgSO4) and evaporated. The residual oil (6.1 g.) was purified by chromatography on silica (180 g.) using 3:7 v/v ethyl acetate/petroleum ether (b.p.60°-80° C.) to give 2-allyl-1-(2-ethylphenyl)propane-1,3-diol (containing approximately 4:1 erythro- to threo-forms) as an oil (4.0 g.); NMR: 1.19 (3H,m), 2.04 (5H,m), 2.59 (2H,m), 3.76 (2H,m), 5.02 (3H,m), 5.67 (1H,m), 7.17 (3H,m), and 7.47 (1H,m)ppm.

reactant | 2-allyl-3-(2-ethylphenyl)-3-oxopropionate | 7.3 g | C(C=C)C(C(=O)[O-])C(=O)C1=C(C=CC=C1)CC
reactant | lithium borohydride | 1.32 g | [BH4-].[Li+]
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | 2-allyl-1-(2-ethylphenyl)propane-1,3-diol | C(C=C)C(C(O)C1=C(C=CC=C1)CC)CO | C14H20O2
